US04912102
A mixture of 1.35 g (0.00054 mol) of 3,5-di-tert.-butyl-4-hydroxybenzoic acid and 0.9 g (0.0054 mol) of 1,1'-carbonyldiimidazole in 20 ml of dry tetrahydrofuran was stirred at room temperature for 30 minutes. To the above mixture 1.3 g (0.00031 mol) of (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one was added and stirred at room temperature for 17 hours then at reflux for 7 hours. After cooling the solids were filtered and the filtrate was concentrated to dryness. The residue was partitioned between ethyl acetate and dilute ammonium hydroxide. The ethyl acetate solutions were washed with brine, dried (MgSO4) and the solvent was removed under reduced pressure. The residue was dissolved in acetonitrile and chromatographed on 45 g of silica gel. The column was eluted wtih 50 ml portions of acetonitrile. Fractions 10-20 were combined and the solvent was removed to give 0.9 g of crude product, which was crystallized from ether to give 0.8 g (40%) of (±)-cis-2,3-dihydro-3-[[4-hydroxy-3,5-bis(1,1-dimethylethyl)benzoyl]oxy]-2-(4-methoxyphenyl)-5-[2-dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one, mp 181°-182°.

reactant | 3,5-di-tert.-butyl-4-hydroxybenzoic acid | 0.00054 mol, 1.35 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | 1,1'-carbonyldiimidazole | 0.0054 mol, 0.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one | 0.00031 mol, 1.3 g | O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(C)C)=O | C24H26N2O3S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | naphtho[1,2-b][1,4]thiazepin-4(5H)-one | S1C2=C(NC(C=C1)=O)C=CC1=CC=CC=C12 | C13H9NOS
